US07932272B2
Benzofuran-5-carbaldehyde
To a solution of 2,3-dihydro-benzofuran-5-carbaldehyde described in Preparation Example 174 (6.00 g, 40.5 mmol) in toluene (120 mL) was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (18.3 g, 81 mmol), and the solution was refluxed for 4 hours 30 minutes. The reaction solution was cooled to room temperature, water was added, the solution was extracted with ethyl acetate and tetrahydrofuran, and the organic layer was washed with brine. Anhydrous magnesium sulfate was added to the organic layer for drying, which was then filtered, the filtrate was concentrated in vacuo, the residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1), and the title compound (1.24 g, 21%) was obtained as a pale yellow oil.

reactant | 2,3-dihydro-benzofuran-5-carbaldehyde | O1CCC2=C1C=CC(=C2)C=O | C9H8O2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 81 mmol, 18.3 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | water | O | H2O
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | Benzofuran-5-carbaldehyde | 1.24 g, 21% | O1C=CC2=C1C=CC(=C2)C=O | C9H6O2
